US06353006B1
1-Aminocyclopentanecarboxylic acid was converted to the methyl ester according to Method B1c, Step 1. The ester reduced to 1-hydroxymethylcyclopentanamine according to Method B1c, Step 2. The 2-hydroxyethylamine was reacted with cyclobutanone according to Method B4a, Step 1 to give 5-aza-12-oxadispiro[3.1.4.2]dodecane. The oxazolidine was reduced according to Method B4a, Step 2 to give 1-(cyclobutylamino)-1-(hydroxymethyl)cyclopentane. The substituted 2-hydroxyethylamine was reacted with SOCl2 according to Method B7b to 1-(cyclobutylamino)-1-(chloromethyl)cyclopentane. The 2-chloroethylamine was reacted with 2-methyl-4-nitrophenyl isocyanate according to Method C4a to afford 1-cyclobutyl-2-(2-methyl-4-nitrophenylimino)-3-oxa-1-azaspiro[4.4]nonane.

reactant | 1-Aminocyclopentanecarboxylic acid | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | 1-hydroxymethylcyclopentanamine | OCC1(CCCC1)N | C6H13NO
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 5-aza-12-oxadispiro[3.1.4.2]dodecane | C1CCC12NC1(CCCC1)CO2 | C10H17NO
